US08466282B2
1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylic acid
Ethyl 1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate (110 mg) was dissolved in ethanol (3 ml)-water (2 ml)-1M aqueous sodium hydroxide solution (1 ml) and the mixture was stirred at 60° C. for 12 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was diluted with water, neutralized (pH: 2) with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (92 mg).

reactant | Ethyl 1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate | 110 mg | FC1=C(C=CC=C1)N1N=NC(=C1)C(=O)OCC | C11H10FN3O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | -1M, 2 ml | O | H2O
product | 1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylic acid | 92 mg | FC1=C(C=CC=C1)N1N=NC(=C1)C(=O)O | C9H6FN3O2
